US09376441B2
In a pressure tube, 5-bromo-2-chloro-3-fluoropyridine (7.89 ml, 49.9 mmol), tert-butyl piperazine-1-carboxylate (9293.48 mg, 49.9 mmol), potassium carbonate (8275.33 mg, 59.88 mmol) in dimethylsulfoxide (40 ml) were combined and refluxed at 120 C for ovn. The reaction was cooled down, diluted with ethyl ether (100 mL). The solution was washed with water (40 mL×2), brine (50 mL), filtered, dried, and concentrated. The reaction was purified on silica by flash chromatography to provide of tert-butyl 4-(5-bromo-3-fluoropyridin-2-yl)piperazine-1-carboxylate (5000 mg, 28%).

reactant | 5-bromo-2-chloro-3-fluoropyridine | 49.9 mmol, 7.89 ml | BrC=1C=C(C(=NC1)Cl)F | C5H2BrClFN
reactant | tert-butyl piperazine-1-carboxylate | 49.9 mmol, 9293.48 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 59.88 mmol, 8275.33 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | tert-butyl 4-(5-bromo-3-fluoropyridin-2-yl)piperazine-1-carboxylate | 5000 mg, 28% | BrC=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)F | C14H19BrFN3O2
